US04496390
2,3,4,6-Tetrafluoroaniline (27.5 g) was diazotised with sodium nitrite (12.5 g) in a mixture of concentrated hydrochloric acid (580 ml) and glacial acetic acid (110 ml). The filtered diazonium salt solution was reduced by the addition of a solution of stannous chloride dihydrate (108 g) in concentrated sulphuric acid (108 ml) at 0°-10° C. The resulting hydrazine hydrochloride solution was evaporated to dryness and the residue was dissolved in water and basified by the addition of aqueous ammonia solution (S.G. 0.880). The precipitated solid was filtered off and the filter pad was well washed with diethyl ether. The ethereal washings were combined with ether extracts of the filtrate, dried over sodium sulphate, filtered and evaporated to dryness. Trituration of the residue with hexane gave 2,3,4,6-tetrafluorophenylhydrazine (18.3 g), m.p. 74°-76° C., in the form of off-white crystals.

reactant | 2,3,4,6-Tetrafluoroaniline | 27.5 g | FC1=C(N)C(=CC(=C1F)F)F | C6H3F4N
reactant | sodium nitrite | 12.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 580 ml | Cl | ClH
reactant | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 108 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,4,6-tetrafluorophenylhydrazine | 18.3 g | FC1=C(C(=CC(=C1F)F)F)NN | C6H4F4N2
